US07932272B2
Next, to a solution of 6-bromoisoquinoline (382 mg, 1.84 mmol) in N,N-dimethylformamide (3.8 mL) were added zinc cyanide (431 mg, 3.67 mmol) and tetrakis(triphenylphosphine)palladium(0) (42 mg, 0.0367 mmol) under nitrogen atmosphere, and the mixture was stirred at 100° C. for 1 hour. Tetrakis(triphenylphosphine)palladium(0) (42 mg, 0.0367 mmol) was further added, and the mixture was stirred for 2.5 hours at 100° C. The reaction mixture was allowed to room temperature, ethyl acetate and water were added for extraction, the organic layer was washed with water and dried over anhydrous magnesium sulfate. The residue was purified by silica gel column chromatography (hexane:ethyl acetate), and isoquinoline-6-carbonitrile (234 mg, 83%) was obtained as a yellow solid.

reactant | 6-bromoisoquinoline | 1.84 mmol, 382 mg | BrC=1C=C2C=CN=CC2=CC1 | C9H6BrN
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
reactant | water | O | H2O
reactant | N,N-dimethylformamide | 3.8 mL | CN(C=O)C | C3H7NO
catalyst | zinc cyanide | 3.67 mmol, 431 mg | [C-]#N.[Zn+2].[C-]#N
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.0367 mmol, 42 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
catalyst | Tetrakis(triphenylphosphine)palladium(0) | 0.0367 mmol, 42 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | isoquinoline-6-carbonitrile | 234 mg, 83% | C1=NC=CC2=CC(=CC=C12)C#N | C10H6N2
